US05047534
The 1,3-diallyl-5-nitroso-6-aminouracil (4.5 g) was suspended in 150 ml of ethyl acetate and treated with 23.6 g of sodium dithionite in 64 ml of water. After 1 hour, the layers were separated and the aqueous phase was extracted with ethyl acetate (4×100 ml). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated and the residue was purified by flash chromatography (10% methanol in chloroform) to yield 4.41 g of 1,3-diallyl-5,6-diaminouracil.

reactant | 1,3-diallyl-5-nitroso-6-aminouracil | 4.5 g | C(C=C)N1C(=O)N(C(=O)C(=C1N)N=O)CC=C | C10H12N4O3
reactant | sodium dithionite | 23.6 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 64 ml | O | H2O
product | 1,3-diallyl-5,6-diaminouracil | 4.41 g | C(C=C)N1C(=O)N(C(=O)C(=C1N)N)CC=C | C10H14N4O2
